US07939519B2
A mixture of 1-(4-hydroxymethyl-phenyl)-ethanone O-(4-chloro-3-trifluoromethyl-benzyl)-oxime (1 eq), phenyl boronic acid (1.5 eq), Pd(OAc)2 (0.03 eq), phosphine ligand (0.06 eq) and KF (3 eq) in dry THF is heated at 100° C. in microwave for 30 minutes. The resulting mixture is diluted with EtOAc and washed with brine. The organic layer is dried over Na2SO4. After concentration, the residue is purified by column chromatography (30% EtOAc in hexane) to give 1-(4-hydroxymethyl-phenyl)-ethanone O-(2-trifluoromethyl-biphenyl-4-ylmethyl)-oxime as a white solid [MS: (ES+) 400.1 (M+1)+].

reactant | 1-(4-hydroxymethyl-phenyl)-ethanone O-(4-chloro-3-trifluoromethyl-benzyl)-oxime | 1 eq | ClC1=C(C=C(CON=C(C)C2=CC=C(C=C2)CO)C=C1)C(F)(F)F | C17H15ClF3NO2
reactant | phenyl boronic acid | 1.5 eq | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | phosphine | 0.06 eq | P | H3P
reactant | KF | 3 eq | [F-].[K+]
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.03 eq | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 1-(4-hydroxymethyl-phenyl)-ethanone O-(2-trifluoromethyl-biphenyl-4-ylmethyl)-oxime | FC(C1=C(C=CC(=C1)CON=C(C)C1=CC=C(C=C1)CO)C1=CC=CC=C1)(F)F | C23H20F3NO2
